US06689806B1
6-Phenyl-2-oxindole (50 mg, 0.3 mmol) was condensed with 5-bromosalicylaldehyde (50 mg, 0.25 mmol) using method B to give 80 mg (82%) of 3-(5-bromo-2-hydroxybenzylidene)-6-phenyl-1,3-dihydroindol-2-one as a yellow/orange solid.

reactant | 6-Phenyl-2-oxindole | 0.3 mmol, 50 mg | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | 5-bromosalicylaldehyde | 0.25 mmol, 50 mg | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
product | 3-(5-bromo-2-hydroxybenzylidene)-6-phenyl-1,3-dihydroindol-2-one | 80 mg, 82% | BrC=1C=CC(=C(C=C2C(NC3=CC(=CC=C23)C2=CC=CC=C2)=O)C1)O | C21H14BrNO2
